US07153874B2
2-[2-Methyl-4-(2-methyl-pyridin-4-ylethynyl)-imidazol-1-yl]-pyrimidine (8)
2-Methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine (II-1) (87 mg, 0.44 mmol) dissolved in 3 mL dimethyl formamide. Potassium carbonate (122 mg, 0.88 mmol) and 2-chloro-pyrimidine (76 mg, 0.66 mmol) were added and the reaction mixture was refluxed overnight. The reaction mixture was poured into 60 mL water and extracted three times with ethyl acetate (50 mL each). The combined organic extracts were dried with sodium sulfate, filtered and evaporated. The crude product was treated with ethyl acetate (2 mL) and diisopropyl ether (2 mL). The solid was filtered off and washed with little diisoppropyl ether. The desired compound was as an off-white solid (49 mg, 50%), mp=164–165° C., MS: m/e=276.1 (M+H+).

reactant | 2-Methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | 0.44 mmol, 87 mg | CC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C12H11N3
reactant | Potassium carbonate | 0.88 mmol, 122 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-pyrimidine | 0.66 mmol, 76 mg | ClC1=NC=CC=N1 | C4H3ClN2
reactant | water | 60 mL | O | H2O
solvent | dimethyl formamide | 3 mL | CN(C=O)C | C3H7NO
product | 2-[2-Methyl-4-(2-methyl-pyridin-4-ylethynyl)-imidazol-1-yl]-pyrimidine | CC=1N(C=C(N1)C#CC1=CC(=NC=C1)C)C1=NC=CC=N1 | C16H13N5
